Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left thoracotomy wound drainage
 
Major Surgical or Invasive Procedure:
___ - s/p incision and drainage of L Thoracic aneurysm 
repair incision dehiscence and L pleural effusion drainage with 
pigtail chest tube placement.
___: PICC Xcela Right Basilic 37 cm: terminates in SVC
___: Left video-assisted thoracoscopic surgery (VATS)
and decortication of lung

 
History of Present Illness:
___ year old female now POD ___ s/p repair of distal aortic 
arch/descending thoracic aneurysm ___, see OP note & d/c 
summary of ___ for complete
details), being followed by ___ and ___ clinic team for 
___ wound dehiscence with wound dressings but no antibiotics, 
presented to ER ___ c/o T 100.5F, dizziness, and N/V x 2days.  
CTA showed L pleural effusion but no evidence of graft leak or 
abscess. She was admitted to floor under Vascular team and 
started on Vancomycin and Cefepime with initial WBC 20.  
Following evaluation by Dr. ___ AM, she was taken to the OR 
for local exploration of L thoracotomy wound and ___ pleural 
effusion drainage, and will be transferred to ___ 6 
postoperatively to cardiac surgery service.

 
Past Medical History:
MRSA empyema
PMH:
Thoracic aortic aneurysm
Migraine
Lower back pain
Allergic Rhinitis
Reactive airway disease
H/O MRSA postive culture in ___: 1. Left posterior lateral thoracotomy with replacement 
of thoracic aneurysm with a 12 mm Hemashield graft with 
reimplantation of the left subclavian artery into the graft via 
an 8 mm Hemashield graft with the use of left atrial to 
descending aortic bypass by Dr. ___ and Dr. ___ 
___

 
Social History:
___
Family History:
 No Premature coronary artery disease or history
of aneurysm. Family history of polycystic kidney disease. 

 
Physical Exam:
Admit Physical Exam:
VS: 108  131/60  22  97% RA 
Alert and oriented
RRR
Clear to auscultation
Incision small are of superficial dehiscence at posterior pole,
about quarter size and one smaller distal area, with small 
amount
of fibrinous exudate, no obvious drainage, does not appear
infected, no fluctuance or induration, no spreading erythema

Discharge Physical Exam:
temp: 98.8F, Tmax 99.5F
Pulse:90, NSR Resp:18   O2 sat:98% on RA
B/P: 112/82
 
Height: 66"     Weight: 72.5kg admit (74.9kg)

General:WDWN young woman lying comfortably in bed
Skin: Warm [x] Dry [x]
HEENT: NCAT [x] PERRLA [x] EOMI [x] no LAD [x]
Neck: Supple [x Full ROM [x JVD: none
Chest: Lungs decreased bilaterally, limited effort d/t pain [x]
Heart: RRR [x] Irregular [] Murmur [] Grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+
[x]
Extremities: Warm [x], well-perfused [x], Edema: none[x], RUE 
PICC line in place and insert site is C/D/I
Neuro: Grossly intact [x]
Pulses:
DP           Right: 2  Left: 2
___           Right: 2  Left: 2
Radial       Right: 2  Left: 2
Left thoracotomy site: edges well approximated with staples 
intact, no erythema/drainage/edema, and only mild tenderness to 
palpation
Left chest tube site: no drainage, erythema or edema

 
Pertinent Results:
___ CTA Chest:
1.  Status post aortic arch aneurysm repair with the aortic arch 
now reverted to a normal caliber.  No evidence of endoleak.   
2.  Resolved post-surgical subcutaneous and mediastinal air 
present on ___. 
3.  Enlarging moderate to large non-hemorrhagic left pleural 
effusion with compressive atelectasis. 
4.  3.2 cm ill-defined fluid collection in the left posterior 
soft tissues may reflect a post-surgical seroma, but infection 
of this collection cannot be excluded on the basis of this 
study. 
5.  No acute intra-abdominal process. 

CXR (___):
FINDINGS:  Comparison is made to prior study from ___.   
There has been removal of the left chest tube.  There is a small 
left apical hydropneumothorax which appears unchanged.  There is 
a right-sided PICC line with distal lead tip in the distal SVC.  
The right lung is relatively clear.  Heart size is within normal 
limits. 
  
LABS:
___ 05:22AM BLOOD WBC-8.5 RBC-2.63* Hgb-7.7* Hct-23.0* 
MCV-87 MCH-29.4 MCHC-33.7 RDW-13.3 Plt ___
___ 05:18AM BLOOD WBC-8.4 RBC-2.50* Hgb-7.4* Hct-21.9* 
MCV-88 MCH-29.5 MCHC-33.6 RDW-13.3 Plt ___
___ 05:22AM BLOOD Glucose-86 UreaN-4* Creat-0.6 Na-145 
K-3.7 Cl-106 HCO3-27 AnGap-16
___ 05:18AM BLOOD Glucose-79 UreaN-3* Creat-0.5 Na-140 
K-3.7 Cl-104 HCO3-28 AnGap-12
___ 03:17AM BLOOD Mg-2.2
___ 5:00 pm TISSUE      LEFT PLEERAL TISSUE. 
      ___ ADDED PER REQUESTION (___). 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary): 

   POTASSIUM HYDROXIDE PREPARATION (Preliminary): 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

 
Brief Hospital Course:
Ms. ___ is a ___ Female who had left thoracotomy with 
repair of distal aortic arch/descending thoracic aneurysm 
___, see OP note & d/c summary of ___ for complete 
details), and was being followed by ___ and ___ clinic team 
for ___
wound dehiscence with wound dressings without outpatient 
antibiotic course.  She presented to ER ___ c/o T 100.5F, 
dizziness, and N/V x 2days.  A CT scan was performed which 
showed a moderate left pleural effusion and a likely wound 
abscess. She was admitted to floor under Vascular team and 
started on Vancomycin and Cefepime with initial WBC 20.  On 
___, she was taken to the operating room where she underwent 
incision and drainage of her abscess and placement of a left 
chest tube. Please see operative note for details. 
Postoperatively she was taken to the PACU and then to ___ 6 for 
further care. Her pain was difficult to manage but ultimately 
responded to dilaudid. A PICC line was placed by ___ on ___ 
Xcela right basilic 37 cm terminates in the SVC for antibiotics. 
Tissue and pleural fluid cultures (___) grew Methicillin 
Resistant Staph aureus, and she is being treated with IV 
Vancomycin.  On ___, she had left video-assisted 
thoracoscopic surgery (VATS)
and decortication of lung with Dr. ___ with subsequent chest 
tube removal ___.
Her thoracotomy and chest tube insicions are healing well.  She 
has remained hemodynamically stable and is able to ambulate 
without assistance.  The infectious disease team is recommending 
a ___ week course of Vancomycin treatment and will decide final 
duration at her next clinic visit.

 
Medications on Admission:
Flonase 50mcg 2 sprays each nostril daily
___ FE 1.5mg-30mcg table po daily
Colace 100mg BID 
HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
Ranitidine 150 mg PO BID 
Ibuprofen 800 mg PO Q8H:PRN pain 
Xopenex ___ 

 
Discharge Medications:
1. Outpatient Lab Work
Dx: MRSA empyema

Vancomycin trough ___, then weekly
Weekly CBC, Chem 7, LFTs, ESR, CRP
Fax all labs to ID RN line: ___ 
2. Docusate Sodium 100 mg PO BID 
3. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth q3h Disp #*40 
Tablet Refills:*0
4. Acetaminophen ___ mg PO Q6H:PRN pain 
5. DiphenhydrAMINE 25 mg PO Q8H:PRN prutitis 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Gabapentin 300 mg PO Q8H 
RX *gabapentin 300 mg 1 capsule(s) by mouth every eight (8) 
hours Disp #*90 Capsule Refills:*0
8. Vancomycin 1250 mg IV Q 8H 
RX *vancomycin 1 gram 1250 mg IV three times a day Disp #*126 
Each Refills:*0
9. Sarna Lotion 1 Appl TP TID:PRN rash 
do not apply near incision 
10. Senna 2 TAB PO DAILY 
11. Sodium Chloride 0.9%  Flush 10 mL IV PRN line flush 
12. Ibuprofen 800 mg PO Q8H:PRN pain 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*60 Tablet Refills:*0
13. Ranitidine 150 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
MRSA empyema
PMH:
Thoracic aortic aneurysm
Migraine
Lower back pain
Allergic Rhinitis
Reactive airway disease
H/O MRSA postive culture in ___: 1. Left posterior lateral thoracotomy with replacement 
of thoracic aneurysm with a 12 mm Hemashield graft with 
reimplantation of the left subclavian artery into the graft via 
an 8 mm Hemashield graft with the use of left atrial to 
descending aortic bypass by Dr. ___ and Dr. ___ 
___

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Dilaudid
Incisions: 
Left thoracotomy - healing well, no erythema or drainage - 
staples to be removed at follow-up visit

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage.  Cover your 
incision with clean, dry bandage daily.
2) Please NO lotions, cream, powder, or ointments to incisions. 
3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
4) No driving for approximately one month and while taking 
narcotics. 
5) Please call with any questions or concerns ___

 
Followup Instructions:
___